US05763437
To a solution of (3RS)-3-amino-2,3-dihydro-5-(2-fluorophenyl)-1-(2-oxo-2H-1-benzopyran-6-yl)methyl-1H-1,4-benzodiazepin-2-one (214 mg) in dry methylene chloride (20 ml) was added dropwise a solution of 3-methylphenyl isocyanate (73 mg) in dry methylene chloride (10 ml) under nitrogen atmosphere at cooling in an ice-bath. The mixture was stirred under the same temperature for 1 hour and at ambient temperature overnight. The resultant precipitates were collected by filtration to afford a crude product. The crude product was purified by column chromatography on silica gel with eluents of chloroform and a mixture of chloroform and ethyl acetate to afford N-[(3RS)-2,3-dihydro-5-(2-fluorophenyl)-1-(2-oxo-2H-1-benzopyran-6-yl)methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N'-(3-methylphenyl)urea as a colorless crystalline solid (200 mg).

reactant | (3RS)-3-amino-2,3-dihydro-5-(2-fluorophenyl)-1-(2-oxo-2H-1-benzopyran-6-yl)methyl-1H-1,4-benzodiazepin-2-one | 214 mg | NC1C(N(C2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2)CC=2C=CC1=C(C=CC(O1)=O)C2)=O | C25H18FN3O3
reactant | 3-methylphenyl isocyanate | 73 mg | CC=1C=C(C=CC1)N=C=O | C8H7NO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[(3RS)-2,3-dihydro-5-(2-fluorophenyl)-1-(2-oxo-2H-1-benzopyran-6-yl)methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]-N'-(3-methylphenyl)urea | 200 mg | FC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=CC=C2)CC=2C=CC1=C(C=CC(O1)=O)C2)=O)NC(=O)NC2=CC(=CC=C2)C | C33H25FN4O4
